US07166587B2
a) ((S)-5-Acetyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester
In an analogous manner to that described in Example 56 b), the acylation of (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester [Example 56 a)] with acetic acid anhydride yielded the title compound as a white solid; MS: m/e=334 (M+H)+.

reactant | (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNC2=C(N(C1=O)C)C=CC=C2)=O | C15H21N3O3
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | ((S)-5-Acetyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(C2=C(N(C1=O)C)C=CC=C2)C(C)=O)=O | C17H23N3O4
